US08349827B2
Preparation of N-(piperidin-4-yl)-9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-amine
The compound, N-(piperidin-4-yl)-9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-amine was synthesized using three step procedure shown above. The first two steps provided the intermediate, tert-butyl 4-((9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-yl)amino)piperidine-1-carboxylate, which was prepared using 6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one and 1-(1-(tert-butoxycarbonyl)piperidin-4-yl)guanidinium chloride as described in the General procedure A. The desired compound, N-(piperidin-4-yl)-9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-amine was obtained by treating tert-butyl 4-((9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-yl)amino)piperidine-1-carboxylate with a solution of HCl (gas) in 1,4-Dioxane (3 mL) for 4 hour. The solvent was then removed under reduced pressure and the crude product was purified using reverse phase chromatography to give the desired product as yellow solid and a TFA salt (0.025 g, 40%); M.p.=189-191° C.; 400 MHz 1H NMR (DMSO-d6) δ: 8.71 (bs, 2H), 8.58 (s, 1H), 8.48 (s, 1H), 8.38 (s, 1H), 8.29-8.26 (m, 2H), 7.88 (bs, 1H), 7.52-7.51 (d, J=5.4 Hz, 1H), 7.13-7.10 (m, 1H), 4.19 (bs, 2H), 3.40-3.39 (bd, 1H), 3.21-3.18 (bd, 1H), 2.86-2.53 (m, 2H), 1.98-1.57 (m, 4H); LCMS (M+H)=346.

reactant | tert-butyl 4-((9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-yl)amino)piperidine-1-carboxylate | N1=C(N=CC2=C1C1=C(NC3=C2C=CN=C3)N=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C24H27N7O2
reactant | HCl | Cl | ClH
solvent | 1,4-Dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | N-(piperidin-4-yl)-9H-dipyrido[2,3-b:4′,3′-f]pyrimido[4,5-d]azepin-2-amine | N1CCC(CC1)NC=1N=CC2=C(C3=C(NC4=C2C=CN=C4)N=CC=C3)N1 | C19H19N7
